US06756378B2
To a stirred solution of pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate (459 mg, 0.96 mmol) and ethyl (R)-3-methoxy-4-(2-aminopropoxy)benzoate (242 mg, 0.96 mmol) in DMF (5 mL) was added Et3N (200 μl, 1.43 mmol), and the resulting mixture was stirred for 2 hr. The mixture was diluted with EtOAc, washed with 0.5 N HCl, brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography on silica-gel with CHCl3—MeOH (50:1, v/v) as eluent to give 360 mg (69%) ethyl (R)-3-methoxy-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate as a colorless crystalline solid. 1H-NMR (CDCl3) δ1.23-1.28 (m, 3 H), 1.38-1.41 (t, 3 H, J=7.3 Hz), 2.32 (s, 3 H), 3.50-4.13 (m, total 11 H), 4.36 (q, 2 H, J=7.3 Hz), 6.65-8.13 (series of m, total 12 H).

reactant | pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate | 0.96 mmol, 459 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | ethyl (R)-3-methoxy-4-(2-aminopropoxy)benzoate | 0.96 mmol, 242 mg | COC=1C=C(C(=O)OCC)C=CC1OC[C@@H](C)N | C13H19NO4
reactant | Et3N | 1.43 mmol, 200 μl | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl (R)-3-methoxy-4-[2-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetylamino]-1-propoxy]benzoate | 360 mg, 69% | COC=1C=C(C(=O)OCC)C=CC1OC[C@@H](C)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C30H35N3O7
